US07361663B2
A. 2-{1-[3-(tert-Butyloxycarbonylaminomethyl)biphenyl-4-carbonyl]-pyrrolidin-2-yl}-3-(3-cyanophenyl)-propionic acid methyl ester
3-(tert-Butyloxycarbonylaminomethyl)biphenyl-4-carboxylic acid (1.15 g, 3.5 mmol) and 3-(3-cyanophenyl)-2-(pyrrolidin-2-yl)-propionic acid methyl ester (0.91 g, 3.5 mmol) are coupled as described in EXAMPLE 1B to give the title compound (1.22 g, 2.8 mmol). 1H NMR (CDCl3, 300 MHz) □ 7.63-7.25(m, 12H), 4.85-4.70(two m, 1H), 4.48(m, 1H), 4.38(br.s, 2H), 3.80-3.71(m, 1H), 3.68, 3.62(two s, 3H), 3.63-3.40(m, 2H), 3.21-3.10(m, 1H), 2.90-2.78(m, 1H), 2.20-2.05(m, 1H), 2.02-1.65(m, 3H), 1.45(s, 9H).

reactant | 3-(tert-Butyloxycarbonylaminomethyl)biphenyl-4-carboxylic acid | 3.5 mmol, 1.15 g | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1C(=O)O)C1=CC=CC=C1 | C19H21NO4
reactant | 3-(3-cyanophenyl)-2-(pyrrolidin-2-yl)-propionic acid methyl ester | 3.5 mmol, 0.91 g | COC(C(CC1=CC(=CC=C1)C#N)C1NCCC1)=O | C15H18N2O2
product | 2-{1-[3-(tert-Butyloxycarbonylaminomethyl)biphenyl-4-carbonyl]-pyrrolidin-2-yl}-3-(3-cyanophenyl)-propionic acid methyl ester | 2.8 mmol, 1.22 g | COC(C(CC1=CC(=CC=C1)C#N)C1N(CCC1)C(=O)C1=C(C=C(C=C1)C1=CC=CC=C1)CNC(=O)OC(C)(C)C)=O | C34H37N3O5
